US05196601
11.2 g (0.083 mole) of diethylene glycol monoethyl ether was added dropwise to a mixture consisting of 1.6 g (0.042 mole) of sodium borohydride, 10 ml of xylene and 5 g (0.027 mole) of methyl caprate at 90° C. over two hours while agitating the mixture. Subsequently, the mixture was agitated at the same temperature for 2.5 hours. After cooling to room temperature, the mixture was neutralized with dilute sulfuric acid. As a result, n-decanol was obtained in 97% yield.

reactant | diethylene glycol monoethyl ether | 0.083 mole, 11.2 g | C(C)OCCOCCO | C6H14O3
reactant | sodium borohydride | 0.042 mole, 1.6 g | [BH4-].[Na+]
reactant | methyl caprate | 0.027 mole, 5 g | O(C(=O)CCCCCCCCC)C | C11H22O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | n-decanol | 97% yield | C(CCCCCCCCC)O | C10H22O
